US07338960B2
1-[4′-(Trifluoromethyl)-4-biphenylyl]-1-pentanone
To a solution of 1-(4-methylphenyl)-1-pentanone (1.00 g, 4.15 mmol) in DME (20 mL) and water (10 mL) was added 4-(trifluoromethyl)benzeneboronic acid (870 mg, 4.57 mmol) and Na2CO3 (1.10 g, 10.38 mmol). After 10 minutes under nitrogen, Pd(PPh3)4 (480 mg, 0.42 mmol) was added portion-wise, and the mixture heated to reflux and stirred under nitrogen for 2 hours. The reaction mixture was then allowed to cool to rt and the solvents removed under vacuum. The resulting residue was partitioned between water and EtOAc, the layers separated and the aqueous re-extracted with EtOAc (3×30 mL). The combined organic extract was separated and dried (MgSO4), and the solvent removed under vacuum. Purification by flash chromatography (silica), eluting with cyclohexane:EtOAc (19:1) afforded the title compound as a white solid (850 mg).

reactant | 1-(4-methylphenyl)-1-pentanone | 4.15 mmol, 1.00 g | CC1=CC=C(C=C1)C(CCCC)=O | C12H16O
reactant | 4-(trifluoromethyl)benzeneboronic acid | 4.57 mmol, 870 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 10.38 mmol, 1.10 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.42 mmol, 480 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4′-(Trifluoromethyl)-4-biphenylyl]-1-pentanone | 850 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCC)=O)(F)F | C18H17F3O
